US09023847B2
64. (4-Amino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-Boc-aminopiperidine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 342 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.52 (1H, s) 10.36 (1H, s) 8.18 (1H, d, J=4.10 Hz) 8.04 (1H, d, J=7.03 Hz) 7.87 (1H, d, J=5.08 Hz) 7.33-7.37 (1H, m) 7.15 (1H, d, J=5.27 Hz) 6.53 (1H, d, J=7.03 Hz) 3.54 (4H, s) 2.81-2.94 (1H, m) 1.82 (2H, d, J=9.96 Hz) 1.70-1.76 (1H, m) 1.25-1.39 (2H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-Boc-aminopiperidine | C(=O)(OC(C)(C)C)C1CCN(CC1)N | C10H20N2O2
product | (4-Amino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone | NC1CCN(CC1)C(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H19N5OS
